US08008334B2
8-(4-Methylsulphanylphenyl)-5,6,7,8-tetrahydroimidazo[1,5-a]pyridine
12.6 mmol of sodium borohydride are suspended in 6 ml of tetrahydrofuran. 19.1 mmol of boron trifluoride ethyl etherate are added dropwise at 0° C. and the reaction mixture is stirred thoroughly for 10 minutes. A suspension of 1.27 mmol of 8-(4-methylsulphanylphenyl) 5,6,7,8-tetrahydroimidazo[1,5-a]pyridin-8-ol in 6 ml of tetrahydrofuran is added and the reaction mixture is stirred at room temperature for 16 hours. The reaction mixture is subsequently poured into saturated aqueous sodium hydrogen carbonate solution and extracted with dichloromethane (3×). The combined organic phases are dried with sodium sulphate and evaporated. From the residue the title compound is obtained by means of flash chromatography (SiO2 60F) as a white solid. Rf=0.63 (dichloromethane/methanol 9:1); Rt=5.73 (Gradient I).

reactant | sodium borohydride | 12.6 mmol | [BH4-].[Na+]
reactant | boron trifluoride ethyl etherate | 19.1 mmol | B(F)(F)F.CCOCC
reactant | 8-(4-methylsulphanylphenyl) 5,6,7,8-tetrahydroimidazo[1,5-a]pyridin-8-ol | 1.27 mmol | CSC1=CC=C(C=C1)C1(C=2N(CCC1)C=NC2)O | C14H16N2OS
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
product | 8-(4-Methylsulphanylphenyl)-5,6,7,8-tetrahydroimidazo[1,5-a]pyridine | CSC1=CC=C(C=C1)C1C=2N(CCC1)C=NC2 | C14H16N2S
